US04863947
Preparation of 3-(4-chlorophenyl)-4-carbomethoxy-4-methyl-4,5-dihydro-1H-pyrazole
Into a 5 liter RBF was added 700 g (2.07) mole) of methyl 2-methyl-2-mesyloxymethyl-3-(4-chlorophenyl)-3-keto-propanoate and 1700 ml of methanol. The slurry is warmed to 50° C. whereon, 248 g (4.14 mole) of acetic acid and 186 g (2.28 mole) of sodium acetate are added. Without further heating, 207 g (4.14 mole) of hydrazine hydrate is added over 20 minutes and the temperature is allowed to rise to reflux. After the addition, the mixture is allowed to stir for 45 minutes whereon the temperature has fallen 50° C. The mixture is worked up with 2 kgs of ice, 2 kgs of cold water and 5 liters of ethyl ether and neutralized using approximately 300 g of 50% NaOH to achieve pH 8. After separating the organic layer and washing it with brine the organic layer is thoroughly dried with MgSO4. The resulting solution of 3-(4-chlorophenyl)-4-carbomethoxy-4-methyl-4,5-dihydro-1H-pyrazole is used as is in the next reaction. NMR data was consistent with the structure.

reactant | methyl 2-methyl-2-mesyloxymethyl-3-(4-chlorophenyl)-3-keto-propanoate | CC(C(=O)OC)(C(=O)C1=CC=C(C=C1)Cl)COS(=O)(=O)C | C13H15ClO6S
reactant | acetic acid | 4.14 mole, 248 g | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 2.28 mole, 186 g | C(C)(=O)[O-].[Na+]
reactant | hydrazine hydrate | 4.14 mole, 207 g | O.NN
reactant | NaOH | approximately 300 g | [OH-].[Na+]
solvent | ethyl ether | 5 liters | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | methanol | 1700 ml | CO | CH4O
product | 3-(4-chlorophenyl)-4-carbomethoxy-4-methyl-4,5-dihydro-1H-pyrazole | ClC1=CC=C(C=C1)C1=NNCC1(C)C(=O)OC | C12H13ClN2O2
